US09302989B2
N-{4-[4-(cyclopropylcarbonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 278, substituting cyclopropanecarbonyl chloride for acetyl chloride and N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.15 (s, 1H), 7.38-7.45 (m, 2H), 7.28-7.39 (m, 4H), 6.87-6.93 (m, 2H), 4.74 (s, 4H), 3.73-3.90 (m, 2H), 3.50-3.70 (m, 2H), 3.02-3.18 (m, 4H), 1.98-2.07 (m, 1H), 0.68-0.77 (m, 4H); MS (ESI(−)) m/e 389 (M−H)−.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C19H22N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{4-[4-(cyclopropylcarbonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C1(CC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C23H26N4O2
